US07005431B2
c) 3-Amino-5-(1-fluoro-1-methylethyl)-1,2,4-triazine
A stirred solution of sodium acetate trihydrate (23.07 g, 80.7 mmol) and 1,1-dibromo-3-fluoro-3-methylbutan-2-one (21.14 g, 80.7 mmol) in water (80 ml) was heated at reflux under nitrogen for 40 min, then allowed to cool to room temperature before adding solid aminoguanidine bicarbonate (10.99 g, 80.7 mmol). The mixture was stirred at room temperature for 5 h, then 4 N aqueous NaOH solution (40.4 ml, 162 mmol) was added and the mixture was stirred under nitrogen for a further 3 days. The mixture was filtered and the solid was washed with water twice, then dried under vacuum at 60° C. to give 6.40 g (51%) of the title compound as a yellow-brown solid: 1H NMR (360 MHz, DMSO-d6) δ 1.63 (6H, d, J 22.2), 7.32 (2H, br s), 8.73 (1H, d, J 1.0); MS (ES+) m/z 157 [M+H]+.

reactant | sodium acetate trihydrate | 80.7 mmol, 23.07 g | O.O.O.C(C)(=O)[O-].[Na+]
reactant | 1,1-dibromo-3-fluoro-3-methylbutan-2-one | 80.7 mmol, 21.14 g | BrC(C(C(C)(C)F)=O)Br | C5H7Br2FO
reactant | aminoguanidine bicarbonate | 80.7 mmol, 10.99 g | C(O)(O)=O.NNC(=N)N
reactant | NaOH | 162 mmol, 4 N, 40.4 ml | [OH-].[Na+]
solvent | water | 80 ml | O | H2O
product | 3-Amino-5-(1-fluoro-1-methylethyl)-1,2,4-triazine | 6.40 g, 51% | NC=1N=NC=C(N1)C(C)(C)F | C6H9FN4
